US06982348B2
To a solution of (4RS,5SR)-5-(4-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (500 mg, 1.55 mmol) in acetonitrile (5 ml) were added di-t-butyl dicarbonate (406 mg, 1.86 mmol) and dimethylaminopyridine (19.6 mg, 0.16 mmol), and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added water (20 ml) and the mixture was extracted with ethyl acetate (20 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give 1,1-dimethylethyl (4RS,5SR)-2-oxo-5-(4-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (571 mg, 87%).

reactant | (4RS,5SR)-5-(4-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 1.55 mmol, 500 mg | N1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C16H13F3N2O2
reactant | di-t-butyl dicarbonate | 1.86 mmol, 406 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.16 mmol, 19.6 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | 20 ml | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1,1-dimethylethyl (4RS,5SR)-2-oxo-5-(4-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 571 mg, 87% | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C21H21F3N2O4
